Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
iodine / benztropine
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr ___ is a ___ year old man with a past medical 
history significant for atrial fibrillation on apixaban, chronic 
diastolic heart failure, who presents with tachycardia and 
dyspnea.  

 Over the past few months, Mr ___ has had several admission 
for atrial fibrillation, heart failure and asthma. Throughout 
his inpatient and outpatient visits, he has been started on 
Lasix for ___ which has been titrated. He has also been on 
various nodal agents for his afib, and they have been titrated 
up/down several times.   He was most recently admitted for 
orthostatic syncopal episode where his lisinopril and furosemide 
were stopped .

 He presents today for shortness of breath. Pt reports that he 
has had shortness of breath for approximately one week that has 
been worsening gradually. His family recommended he go to the 
clinic, where he was found to be in AF with RVR at a rate in the 
140's. EMS gave 10mg dilt with improvement of his HR to the 
108-110. Pt reports intermittent chest pain for several days. 
Denies any known weight gain, recent illness, cough, orthopnea, 
dysuria, hematuria, fevers, abdominal pain.  

 ED COURSE  
 - In the ED, initial vitals 97.9 118 128/97 18 96% Nasal 
Cannula   
 - Labs notable for bnp of 362, negative D-dimer and x1 negative 
trop
 - EKG showed AF with RVR 122 borderline RAD QTc 483, 1mm STE in 
V2-3, TWF III and aVF, consistent with prior EKG's
  - CXR with some vascular congestion
 - Pt was given PO dilt 30mg and x1 duoneb

 
 Upon arrival to the floor patient reports that this feels like 
his asthma exacerbations.  He denies any sick contacts.  He does 
feel that his legs have been getting swollen over the last few 
days.
 
Past Medical History:
Hypertension
Long QT
Hyperlipidemia
CKD Stage 2
Hypothyroidism
Cerebral palsy
Sleep apnea
GERD
Morbid obesity
Anxiety
Constipation
 
Social History:
___
Family History:
Father Cancer - ___ Diabetes - Type II
 
Physical Exam:
ADMISSION
Vitals: 98.2 124 / 62 86 24 95 RA 
GENERAL: Pleasant, in NAD  
HEENT: Normocephalic, atraumatic. No conjunctival pallor. No 
scleral icterus. PERRLA/EOMI. MMM  
CARDIAC: irregularly irregular rhythm, normal rate. Normal S1, 
S2. No murmurs, rubs or gallops. JVP unable to be assessed given 
body habitus  
LUNGS: no wheezing, poor air movement  
ABDOMEN: NABS. Soft, NT, ND  
EXTREMITIES: edema 1+ to mild shins  
SKIN: No rashes/lesions, ecchymoses.  
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. ___ strength 
throughout. Normal coordination. Gait assessment deferred  
PSYCH: Listens and responds to questions appropriately, pleasant 


DISCHARGE
Vital Signs: 97.9 127/59 77 20 98ra
24H I/O: ___
GENERAL: Pleasant, in NAD  
CARDIAC: irregularly irregular rhythm, normal rate. Normal S1, 
S2. No murmurs, rubs or gallops. JVP unable to be assessed given 
body habitus  
LUNGS: no wheezing or crackles, poor air movement  
ABDOMEN: NABS. Soft, NT, ND  
EXTREMITIES: warm, no pitting edema  
SKIN: No rashes/lesions, ecchymoses.  
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. ___ strength 
throughout. Normal coordination. Gait assessment deferred  
PSYCH: Listens and responds to questions appropriately, pleasant
 
Pertinent Results:
ADMISSION
___ 04:57PM BLOOD Neuts-66.4 ___ Monos-11.4 
Eos-0.9* Baso-0.3 Im ___ AbsNeut-6.34* AbsLymp-1.93 
AbsMono-1.09* AbsEos-0.09 AbsBaso-0.03
___ 04:57PM BLOOD WBC-9.6 RBC-5.19 Hgb-15.0 Hct-46.7 MCV-90 
MCH-28.9 MCHC-32.1 RDW-13.2 RDWSD-43.0 Plt ___
___ 04:57PM BLOOD ___ PTT-32.8 ___
___ 04:57PM BLOOD Glucose-110* UreaN-22* Creat-1.2 Na-138 
K-5.5* Cl-97 HCO3-31 AnGap-16
___ 04:57PM BLOOD proBNP-362*
___ 04:57PM BLOOD cTropnT-<0.01
___ 06:39PM BLOOD D-Dimer-321
___ 05:05PM BLOOD Lactate-1.5 K-3.9

PERTINENT

___ 04:57PM BLOOD proBNP-362*
___ 04:57PM BLOOD cTropnT-<0.01
___ 06:39PM BLOOD D-Dimer-321
___ 05:05PM BLOOD Lactate-1.5 K-3.9

DISCHARGE
___ 07:30AM BLOOD Glucose-97 UreaN-25* Creat-1.1 Na-140 
K-3.4 Cl-97 HCO3-34* AnGap-12

MICROBIOLOGY
None

IMAGING
___ Imaging CHEST (PORTABLE AP) 
FINDINGS:  
  
Low lung volumes again noted.  There is prominence of the 
pulmonary vascular markings likely due to in part low lung 
volumes and overlying subcutaneous tissues noting that pulmonary 
vascular congestion is also suspected.  There is no large 
pleural effusion.  Cardiac silhouette is enlarged but unchanged. 

  
IMPRESSION:  
Probable pulmonary vascular congestion without obvious 
consolidation based on this limited portable exam. 

 
Brief Hospital Course:
___ h/o atrial fibrillation on apixaban, chronic diastolic heart 
failure and asthma who presents with shortness of breath and 
tachycardia, found to have atrial fibrillation with rapid 
ventricular rate as well as acute on chronic diastolic heart 
failure exacerbation and a mild asthma exacerbation.
 
#SHORTNESS OF BREATH: Patient presented to PCP with dyspnea and 
was found to be in afib with RVR with rates to 150s-160s likely 
causing flash pulmonary edema given his history of diastolic 
heart failure.  Patient has had several of these episodes in the 
past.  CXR now with some evidence of vascular congestion.  Last 
ECHO (___) with preserved EF. D-dimer negative and no 
fever/leukocytosis to suggest infection. Trop x2 negative and 
EKG at baseline. Evidence of mild volume overload on CXR is 
likely from tachycardia causing flash pulmonary edema. No signs 
of infection or pain, no recent downtitration of diltiazem or 
metoprolol though compliance has been an issue in the past. 
Although patient does not have wheezing on exam, he does have a 
significant asthma history and has intermittent compliance with 
taking his inhalers, therefore poorly controlled asthma may be 
contributing to the patient's symptoms. Patient was started on 
montele___. He also received teaching/evaluation from ___ 
and RT regarding his medication compliance/education and was 
discharged to rehab with expectation that patient will require 
less than 30 days of rehab.

#AFIB WITH RVR: Unclear etiology although patient has had 
numerous episodes and admission for this. It is likely related 
to poor medication compliance at home. Patient on multiple nodal 
blocking agents, both of which have been titrated up and down 
over past few months with previous difficulty with compliance. 
Low suspicion for PE and D-dimer negative. Infection possible, 
but no localizing symptoms and blood cultures were NGTD at 
discharge.  EKG without signs of new MI and trop negative x2. No 
obvious signs of overt volume overload, CXR findings may be due 
to flash pulmonary edema due to RVR in setting of ___. Has had 
difficulty tolerating uptitration of rate control agents due to 
hypotension. He received a bolus of IV diltiazem on admission 
with quick improvement of his heart rate though remained in 
afib. Patient was restarted on home medications and tolerated 
well.

#Chronic Diastolic Heart Failure: CXR with vascular congestion 
likely due to afib with RVR as above. No obvious pitting edema, 
unable to assess JVP due to habitus. Respiratory status stable. 
pro-BNP though difficult to interpret given obesity. Was given 
20mg furosemide IV x1 with large UOP. It was decided to restart 
patient on maintenance furosemide 20mg 3x/week with 20mEq of KCl 
QD.

# Depression/anxiety:  
- continued on home risperidone, bupropion  
- cont. home lorazepam 

# HTN: Continue home regimen
  
# BPH: Continue home tamsulosin and finasteride  

# HLD: Continue home atorvastatin  

# Hypothyroidism: Continue home levothyroxine  

# GERD: Continue home Omeprazole  

Patient to be discharged to rehab facility and is expected to 
require less than 30 days of rehab.

TRANSITIONAL ISSUES
[]follow up compliance with new and old medications 
[]Check Chem 7 in 3 days

# CONTACT: 
___ (sister) ___ 
___ (case manager) ___ 
# CODE: Full 

DISCHARGE WEIGHT 100.9 kg

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Apixaban 5 mg PO BID 
3. Atorvastatin 20 mg PO QPM 
4. BuPROPion (Sustained Release) 150 mg PO BID 
5. Diltiazem Extended-Release 360 mg PO DAILY 
6. Finasteride 5 mg PO DAILY 
7. Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
8. Levothyroxine Sodium 25 mcg PO DAILY 
9. LORazepam 0.5 mg PO DAILY:PRN anxiety 
10. Metoprolol Succinate XL 100 mg PO DAILY 
11. Omeprazole 20 mg PO DAILY 
12. Polyethylene Glycol 17 g PO DAILY 
13. RisperiDONE 2 mg PO QAM 
14. RisperiDONE 3 mg PO QPM 
15. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Apixaban 5 mg PO BID 
3. Atorvastatin 20 mg PO QPM 
4. BuPROPion (Sustained Release) 150 mg PO BID 
5. Diltiazem Extended-Release 360 mg PO DAILY 
6. Finasteride 5 mg PO DAILY 
7. Levothyroxine Sodium 25 mcg PO DAILY 
8. LORazepam 0.5 mg PO DAILY:PRN anxiety 
RX *lorazepam 0.5 mg 1 tablet by mouth daily Disp #*5 Tablet 
Refills:*0
9. Metoprolol Succinate XL 100 mg PO DAILY 
10. Omeprazole 20 mg PO DAILY 
11. Polyethylene Glycol 17 g PO DAILY 
12. RisperiDONE 2 mg PO QAM 
13. RisperiDONE 3 mg PO QPM 
14. Tamsulosin 0.4 mg PO QHS 
15. Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
16. Montelukast 10 mg PO DAILY 
RX *montelukast 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
17. Furosemide 20 mg PO 3X/WEEK (___) 
RX *furosemide 20 mg 1 tablet(s) by mouth Three times a week 
Disp #*12 Tablet Refills:*0
18. Potassium Chloride 20 mEq PO DAILY 
Hold for K > 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth once a day 
Disp #*15 Tablet Refills:*0
19. CPAP
CPAP while patient sleeps for OSA
Settings: Minimum 4 Maximum 20
Please use home machine/mask

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
PRIMARY DIAGNOSIS
Asthma
Atrial Fibrilation
Chronic Diastolic Heart Failure

SECONDARY DIAGNOSIS
HTN
HLD
Hypothyroidism
Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you in the hospital. You came 
to the hospital because you were having difficulty breathing. 
Your heart rate was found to be very fast. We think your 
shortness of breath was because of your fast heart rate and 
possibly also due to your asthma. We gave you medication to 
control your heart rate and also started an oral medication to 
take for your asthma.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

Your discharge medications and follow up appointments are 
detailed below.

We wish you the best!

Your ___ Care team
 
Followup Instructions:
___